US04472381
To N-t-butyloxycarbonyl-glycyl-L-proline benzylester (25.7 g, 68.2 m mole) 4N hydrogen chloride dioxane solution (170 ml) was added and the solid material was dissolved. The mixture was stirred for 1 hour at room temperature. The mixture was evaporated under reduced pressure to obtain a half-solid glycyl-L-proline benzylester hydrochloride (20.2 g, 64.8 m mole, yield: 95%).

reactant | N-t-butyloxycarbonyl-glycyl-L-proline benzylester | 4N, 25.7 g | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C(CNC(=O)OC(C)(C)C)=O)=O | C19H26N2O5
reactant | hydrogen chloride dioxane | 170 ml | O1CCOCC1.Cl
product | glycyl-L-proline benzylester hydrochloride | 20.2 g, yield: 95% | Cl.C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C(CN)=O)=O | InChI=1S/C14H18N2O3.ClH/c15-9-13(17)16-8-4-7-12(16)14(18)19-10-11-5-2-1-3-6-11;/h1-3,5-6,12H,4,7-10,15H2;1H/t12-;/m0./s1
